### PR TITLE
[Merged by Bors] - feat(Tactic/Algebraize): Allow the `algebraize` tactic to use lemmas which don't (directly) mention RingHom

### PR DESCRIPTION
**Pull request by edegeltje**
This PR allows the `algebraize` tactic to be applied in more cases. Specifically, in cases where the assumption is not (directly) about RingHom, it should still be able to apply lemmas.

Written at the suggestion of @chrisflav , with the following example usecase:
```lean-4
import Mathlib

open AlgebraicGeometry

attribute [algebraize flat_of_flat] Flat -- pretend this is added where `AlgebraicGeometry.Flat` is defined

lemma flat_of_flat {R S : Type u} [CommRing R] [CommRing S] (f : R →+* S) (h : Flat (Spec.map (CommRingCat.ofHom f))) : @Module.Flat R S _ _ f.toAlgebra.toModule := by
  have : f.Flat := sorry -- supposedly, this is true. ask christian.
  algebraize [f]
  assumption

set_option tactic.hygienic false -- allow the tactic to produce accessible names for testing

example {R S : Type u} [CommRing R] [CommRing S] (f : R →+* S) (h : Flat (Spec.map (CommRingCat.ofHom f))) : True := by
  algebraize [f]
  guard_hyp algebraizeInst : Module.Flat R S -- used to fail, succeeds now
  trivial
```

the key changes that makes this possible are the following:
- a different way of making lemma/type applications, creating a term which can be added to the context
- a different way of checking that the previously mentioned term actually relevant w/r/t the arguments provided to the tactic 

The previous check was ad-hoc and flimsy, making requirements of the precise order and the types of the arguments of lemmas or definitions, which resulted in the lemma being applicable in limited cases only.
Now we still have some requirements, but these are less stringent.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Algebraize.lean [hunk 1]
```diff
@@ -201,13 +203,26 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
         let pargs := pargs.set! (n - 1) decl.toExpr
-        let val ← mkAppOptM p pargs
-        let tp ← inferType val
-        unless (← synthInstance? tp).isSome do
-        liftMetaTactic fun mvarid => do
-          let nm ← mkFreshBinderNameForTactic `algebraizeInst
-          let (_, mvar) ← mvarid.note nm val
-          return [mvar]
+        try -- it could be the case that mkAppOptM fails
+          let val ← mkAppOptM p pargs
```
Comment (chrisflav) [inline Mathlib/Tactic/Algebraize.lean:207]:
```suggestion
        let val : Option Expr := ← try return ← mkAppOptM p pargs catch _ => pure none
        match val with
        | some val =>
```
How about this instead? (with the `catch` branch below removed) Then you don't put the whole block in a `try` and it should then be fine to not inspect the `Exception`.

File: Mathlib/RingTheory/RingHom/StandardSmooth.lean [hunk 2]
```diff
@@ -68,7 +68,7 @@ lemma IsStandardSmoothOfRelativeDimension.equiv (e : R ≃+* S) :
   exact Algebra.IsStandardSmoothOfRelativeDimension.of_algebraMap_bijective e.bijective
 
 variable {T : Type*} [CommRing T]
-
+set_option tactic.hygienic false
```
Comment (chrisflav) [inline Mathlib/RingTheory/RingHom/StandardSmooth.lean:71]:
```suggestion

```

File: MathlibTest/algebraize.lean [hunk 3]
```diff
@@ -131,3 +131,49 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
+
+-- check that there is no issue with trying the lemma on a mismatching argument.
+example {A B : Type*} [CommRing A] [CommRing B] (f : A →+* B)
+  (hf : Buz.Fooo ⟨.inr f⟩) : True := by
+  algebraize [f]
+  fail_if_success
+    guard_hyp algebraizeInst : @Algebra.Fooo A B _ _ f.toAlgebra
+  trivial
+
+
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:178]:
```suggestion
```

File: Mathlib/Tactic/Algebraize.lean [hunk 4]
```diff
@@ -201,13 +203,26 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
+          let tp ← inferType val -- This should be the type `Algebra.Property A B`
+          /- find all arguments to `Algebra.Property A B` which are of the form
+            `RingHom.toAlgebra x` -/
+          let rargs ← tp.getAppArgs.filterMapM <| fun x => liftMetaM do
+            ((·.getAppArgs.back?) =<< ·) <$> whnfUntil x ``RingHom.toAlgebra
+          /- check that we're not reproving a result, and that all involved ringhoms are indeed
+            arguments to the tactic -/
```
Comment (chrisflav) [inline Mathlib/Tactic/Algebraize.lean:214]:
```suggestion
          /- Check that we're not reproving a local hypothesis, and that all involved `RingHom`s are indeed
            arguments to the tactic. -/
```

File: Mathlib/Tactic/Algebraize.lean [hunk 5]
```diff
@@ -201,13 +203,26 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
-        unless (← synthInstance? tp).isSome do
-        liftMetaTactic fun mvarid => do
-          let nm ← mkFreshBinderNameForTactic `algebraizeInst
-          let (_, mvar) ← mvarid.note nm val
-          return [mvar]
+        try -- it could be the case that mkAppOptM fails
+          let val ← mkAppOptM p pargs
+          let tp ← inferType val -- This should be the type `Algebra.Property A B`
+          /- find all arguments to `Algebra.Property A B` which are of the form
+            `RingHom.toAlgebra x` -/
```
Comment (chrisflav) [inline Mathlib/Tactic/Algebraize.lean:210]:
```suggestion
          /- Find all arguments to `Algebra.Property A B` which are of the form
            `RingHom.toAlgebra x`. -/
```
(similarly in other places)

File: MathlibTest/algebraize.lean [hunk 6]
```diff
@@ -131,3 +131,49 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
+@[algebraize Buz.fooo]
+def Buz.Fooo {A B : Type*} [CommRing A] [CommRing B] (b : Buz A B) :=
+  b.x.elim (@Algebra.Fooo A B _ _ ·.toAlgebra) (fun _ => False)
+
+lemma Buz.fooo {A B : Type*} [CommRing A] [CommRing B] (f : A →+* B) :
+  Buz.Fooo ⟨.inl f⟩ → @Algebra.Fooo A B _ _ f.toAlgebra := id
+
+-- check that this also works when the argument *contains* a ringhom
+example {A B : Type*} [CommRing A] [CommRing B] (f : A →+* B)
+  (hf : Buz.Fooo ⟨.inl f⟩) : True := by
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:165]:
```suggestion
    (hf : Buz.Fooo ⟨.inl f⟩) : True := by
```
(and below)

File: MathlibTest/algebraize.lean [hunk 7]
```diff
@@ -131,3 +131,49 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
   guard_hyp scalarTowerInst := IsScalarTower.of_algebraMap_eq' rfl
   trivial
+
+section
+/- Test that the algebraize tactic also works on non-RingHom types -/
+class Algebra.Fooo (A B : Type*) [CommRing A] [CommRing B] [Algebra A B] : Prop where
+
+structure Bar (A B : Type*) [CommRing A] [CommRing B] where
+  f : A →+* B
+
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:141]: Could you please reuse the already existing properties in this test file?

**Review by chrisflav — COMMENTED** [review]
Thanks a lot!

**Comment by chrisflav** [comment]
Unfortunately the snippet from the PR description throws an error. You can test this by adding
```
lemma flat_of_flat {R S : CommRingCat} (f : R ⟶ S)
      (h : Flat (Spec.map f)) : @Module.Flat R S _ _ f.hom.toAlgebra.toModule := by
  have : f.hom.Flat := by rwa [← HasRingHomProperty.Spec_iff (P := @Flat)]
  algebraize [f.hom]
  assumption

set_option tactic.hygienic false -- allow the tactic to produce accessible names for testing

example {R S : CommRingCat} (f : R ⟶ S) (h : Flat (Spec.map f)) : True := by
  algebraize [f.hom]
  guard_hyp algebraizeInst : Module.Flat R S -- used to fail, succeeds now
  trivial
```
below the instance `HasRingHomProperty ...` in the file `Mathlib.AlgebraicGeometry.Morphisms.Flat`. The issue is that the lemma `flat_of_flat` is not found when using `algebraize` in `flat_of_flat` itself. So probably there should be a check if the declaration exists and ignore it if not.

File: Mathlib/RingTheory/RingHom/StandardSmooth.lean [hunk 8]
```diff
@@ -68,7 +68,6 @@ lemma IsStandardSmoothOfRelativeDimension.equiv (e : R ≃+* S) :
   exact Algebra.IsStandardSmoothOfRelativeDimension.of_algebraMap_bijective e.bijective
 
 variable {T : Type*} [CommRing T]
```
Comment (edegeltje) [inline Mathlib/RingTheory/RingHom/StandardSmooth.lean:70]:
```suggestion
variable {T : Type*} [CommRing T]

```

File: MathlibTest/algebraize.lean [hunk 9]
```diff
@@ -99,25 +99,38 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
   algebraize [f]
-  guard_hyp algebraizeInst : Algebra.testProperty1 A B
+  guard_hyp algebraizeInst : @Algebra.testProperty1 A B _ _ f.toAlgebra
+  fail_if_success
+    guard_hyp algebraizeInst_1
   trivial
 
-example (A B : Type*) [CommRing A] [CommRing B] (f : A →+* B) (hf : f.testProperty2) : True := by
+example (A B : Type*) [CommRing A] [CommRing B] (f g : A →+* B) (hf : f.testProperty2)
+  (hg : g.testProperty2) : True := by
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:111]:
```suggestion
example (A B : Type*) [CommRing A] [CommRing B] (f g : A →+* B) (hf : f.testProperty2)
    (hg : g.testProperty2) : True := by
```

File: MathlibTest/algebraize.lean [hunk 10]
```diff
@@ -99,25 +99,38 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
-  guard_hyp algebraizeInst : Algebra.testProperty3 A B
+  guard_hyp algebraizeInst : @Algebra.testProperty3 A B _ _ f.toAlgebra
+  fail_if_success
+    guard_hyp algebraizeInst_1
   trivial
 
-example (n : ℕ) (A B : Type*) [CommRing A] [CommRing B] (f : A →+* B) (hf : f.testProperty4 n) :
-    True := by
+example (n m: ℕ) (A B : Type*) [CommRing A] [CommRing B] (f g : A →+* B) (hf : f.testProperty4 n)
+    (hg : g.testProperty4 m): True := by
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:129]:
```suggestion
example (n m : ℕ) (A B : Type*) [CommRing A] [CommRing B] (f g : A →+* B) (hf : f.testProperty4 n)
    (hg : g.testProperty4 m) : True := by
```

File: MathlibTest/algebraize.lean (hunk 9 above)
Comment (chrisflav) [reply MathlibTest/algebraize.lean:111]: (also below)

File: MathlibTest/algebraize.lean [hunk 11]
```diff
@@ -99,25 +99,38 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
+  (hg : g.testProperty2) : True := by
   algebraize [f]
-  guard_hyp algebraizeInst : Module.testProperty2 A B
+  guard_hyp algebraizeInst : @Module.testProperty2 A B _ _ f.toAlgebra.toModule
+  fail_if_success
+    guard_hyp algebraizeInst_1
   trivial
 
-example (A B : Type*) [CommRing A] [CommRing B] (f : A →+* B) (hf : f.testProperty3) : True := by
+-- #print RingHom.testProperty3
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:118]:
```suggestion
```

File: MathlibTest/algebraize.lean [hunk 12]
```diff
@@ -131,3 +144,70 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
   trivial
+
+section
+/- Test that the algebraize tactic also works on non-RingHom types -/
+
+structure Bar (A B : Type*) [CommRing A] [CommRing B] where
+  f : A →+* B
+
+@[algebraize testProperty1_ofBar]
+def Bar.testProperty1 {A B : Type*} [CommRing A] [CommRing B] (b : Bar A B) : Prop :=
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:155]:
```suggestion
def Bar.TestProperty1 {A B : Type*} [CommRing A] [CommRing B] (b : Bar A B) : Prop :=
```
(also below)

File: MathlibTest/algebraize.lean [hunk 13]
```diff
@@ -131,3 +144,70 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
+  ∀ z, b.f z = 0
+
+lemma testProperty1_ofBar {A B : Type*} [CommRing A] [CommRing B] (b : Bar A B) (h : b.testProperty1) :
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:158]:
```suggestion
lemma testProperty1_of_bar {A B : Type*} [CommRing A] [CommRing B] (b : Bar A B) (h : b.testProperty1) :
```

File: MathlibTest/algebraize.lean [hunk 14]
```diff
@@ -131,3 +144,70 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
+
+structure Buz (A B : Type*) [CommRing A] [CommRing B] where
+  x : (A →+* B) ⊕ (A →+* B)
+
+@[algebraize testProperty1_ofBuz_inl]
+def Buz.testProperty1 {A B : Type*} [CommRing A] [CommRing B] (b : Buz A B) :=
+  b.x.elim (@Algebra.testProperty1 A B _ _ ·.toAlgebra) (fun _ => False)
+
+lemma testProperty1_ofBuz_inl {A B : Type*} [CommRing A] [CommRing B] (f : A →+* B) :
+  Buz.testProperty1 ⟨.inl f⟩ → @Algebra.testProperty1 A B _ _ f.toAlgebra := id
```
Comment (chrisflav) [inline MathlibTest/algebraize.lean:194]:
```suggestion
lemma testProperty1_of_buz_inl {A B : Type*} [CommRing A] [CommRing B] (f : A →+* B) :
  Buz.testProperty1 ⟨.inl f⟩ → @Algebra.testProperty1 A B _ _ f.toAlgebra := id
```

File: Mathlib/Tactic/Algebraize.lean [hunk 15]
```diff
@@ -176,22 +176,30 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
+        /- Find all arguments to `Algebra.Property A B` which are of the form
+          `RingHom.toAlgebra x` or `Algebra.toModule (ringHom.toAlgebra x)`. -/
+        let algebra_args ← tp.getAppArgs.mapM <| fun x => liftMetaM do
+          let y := (← whnfUntil x ``Algebra.toModule) >>= (·.getAppArgs.back?)
+          whnfUntil (y.getD x) ``RingHom.toAlgebra
+        let ringHom_args := algebra_args.filterMap <| (· >>= (·.getAppArgs.back?))
+        /- Check that we're not reproving a local hypothesis, and that all involved `RingHom`s are
+          indeed arguments to the tactic. -/
+        unless (← synthInstance? tp).isSome || !(← ringHom_args.allM (fun z => t.anyM
+          (withoutModifyingMCtx <| isDefEq z ·))) do
```
Comment (chrisflav) [inline Mathlib/Tactic/Algebraize.lean:202]: Can we not deduplicate this bit as well?

Comment (edegeltje) [reply Mathlib/Tactic/Algebraize.lean]: yes; good catch 👍

File: Mathlib/Tactic/Algebraize.lean [hunk 16]
```diff
@@ -176,38 +176,45 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
+      let getValType : MetaM (Option (Expr × Expr)) := do
+        /- If the attribute points to the corresponding `Algebra` property itself, we assume that it
+        is definitionally the same as the `RingHom` property. Then, we just need to construct its
+        type and the local declaration will already give a valid term. -/
+        if cinfo.isInductive then
+          pargs[0]!.mvarId!.assignIfDefEq args[0]!
+          pargs[1]!.mvarId!.assignIfDefEq args[1]!
+          -- This should be the type `Algebra.Property A B`
+          let tp ← instantiateMVars tp'
+          if ← isDefEqGuarded decl.type tp then return (decl.toExpr,tp)
```
Comment (chrisflav) [inline Mathlib/Tactic/Algebraize.lean:193]:
```suggestion
          if ← isDefEqGuarded decl.type tp then return (decl.toExpr, tp)
```

File: Mathlib/Tactic/Algebraize.lean [hunk 17]
```diff
@@ -176,38 +176,45 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
+          else return .none
+        /- Otherwise, the attribute points to a lemma or a constructor for the `Algebra` property.
+        In this case, we assume that the `RingHom` property is the last argument of the lemma or
+        constructor (and that this is all we need to supply explicitly). -/
+        else
+          try pargs.back!.mvarId!.assignIfDefEq decl.toExpr catch _ => return .none
+          let val ← instantiateMVars tp'
+          let tp ← inferType val -- This should be the type `Algebra.Property A B`.
+          return (val,tp)
```
Comment (chrisflav) [inline Mathlib/Tactic/Algebraize.lean:202]:
```suggestion
          return (val, tp)
```

**Review by chrisflav — APPROVED** [review]
Thanks! Last nitpicks from me. @callesonne: Since you are the original author, would you like to have a look at this PR?

**Comment by callesonne** [comment]
> Thanks! Last nitpicks from me. @callesonne: Since you are the original author, would you like to have a look at this PR?

Hi! I'm very happy to see some work on this tactic! I would love to have a look, but I'm currently at a conference until Friday. Will try to have a look this weekend :)

**Review by callesonne — COMMENTED** [review]
Here are some small comments. I still have not fully understood what this does yet, but will look more later! So is the point that now that the property doesn't need to take a RingHom as an argument?

File: Mathlib/Tactic/Algebraize.lean [hunk 18]
```diff
@@ -176,38 +176,45 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
-        let tp ← inferType val
-        unless (← synthInstance? tp).isSome do
-        liftMetaTactic fun mvarid => do
-          let nm ← mkFreshBinderNameForTactic `algebraizeInst
-          let (_, mvar) ← mvarid.note nm val
-          return [mvar]
+      let cinfo ← try getConstInfo p catch _ => return
+      let p' ← mkConstWithFreshMVarLevels p
+      let (pargs,_,_) ← forallMetaTelescope (← inferType p')
+      let tp' ← mkAppOptM' p' (pargs.map Option.some)
```
[the remark this answers is not in the document]
Comment (edegeltje) [reply Mathlib/Tactic/Algebraize.lean:182]: there might be a better way to do this, but i don't know it

**Comment by edegeltje** [comment]
> Here are some small comments. I still have not fully understood what this does yet, but will look more later! So is the point that now that the property doesn't need to take a RingHom as an argument?

I expanded the PR description a bit, does this clear it up?

**Comment by callesonne** [comment]
Hey, sorry for not reviewing it last weekend, originally I thought reviewing this would be quite easy since I wrote most of it, but seems I have forgotten a significant amount of metaprogramming in the last 6 months! I have also been quite busy with giving a bunch of talks, but tomorrow is the last one in a while, so this weekend (maybe even tomorrow afternoon) I will have time to sit down and give this a proper review.

And the new PR description is great, this seems like a much needed fix/upgrade :)

> > Here are some small comments. I still have not fully understood what this does yet, but will look more later! So is the point that now that the property doesn't need to take a RingHom as an argument?
> 
> I expanded the PR description a bit, does this clear it up?

File: Mathlib/Tactic/Algebraize.lean [hunk 19]
```diff
@@ -176,38 +176,45 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
+          let val ← instantiateMVars tp'
+          let tp ← inferType val -- This should be the type `Algebra.Property A B`.
+          return (val, tp)
+      let .some (val,tp) ← getValType | return
+      /- Find all arguments to `Algebra.Property A B` which are of the form
+        `RingHom.toAlgebra x` or `Algebra.toModule (RingHom.toAlgebra x)`. -/
+      let algebra_args ← tp.getAppArgs.mapM <| fun x => liftMetaM do
+        let y := (← whnfUntil x ``Algebra.toModule) >>= (·.getAppArgs.back?)
+        whnfUntil (y.getD x) ``RingHom.toAlgebra
+      let ringHom_args := algebra_args.filterMap <| (· >>= (·.getAppArgs.back?))
```
Comment (callesonne) [inline Mathlib/Tactic/Algebraize.lean]:
```suggestion
      let ringHom_args ← tp.getAppArgs.filterMapM <| fun x => liftMetaM do
        let y := (← whnfUntil x ``Algebra.toModule) >>= (·.getAppArgs.back?)
        return (← whnfUntil (y.getD x) ``RingHom.toAlgebra) >>= (·.getAppArgs.back?)
```
Can you do both at once here?

File: Mathlib/Tactic/Algebraize.lean (hunk 18 above)
Comment (callesonne) [inline Mathlib/Tactic/Algebraize.lean]:
```suggestion
      let tp' := mkAppN p' pargs
```
this should work now

File: MathlibTest/algebraize.lean [hunk 20]
```diff
@@ -99,35 +99,113 @@ example (A B C : Type*) [CommRing A] [CommRing B] [CommRing C] (f : A →+* B) (
...
   trivial
 
-example (A B : Type*) [CommRing A] [CommRing B] (f : A →+* B) (hf : f.testProperty1) : True := by
+example (A B : Type*) [CommRing A] [CommRing B] (f g : A →+* B) (hf : f.TestProperty1)
+    (hg : g.TestProperty1) : True := by
   algebraize [f]
-  guard_hyp algebraizeInst : Algebra.testProperty1 A B
+  guard_hyp algebraizeInst : @Algebra.TestProperty1 A B _ _ f.toAlgebra
+  fail_if_success
+    guard_hyp algebraizeInst_1
```
Comment (callesonne) [inline MathlibTest/algebraize.lean:107]: Are these supposed to check that `algebraize [f]` does not add an instance corresponding to `g`?

File: Mathlib/Tactic/Algebraize.lean [hunk 21]
```diff
@@ -176,38 +176,45 @@ def addProperties (t : Array Expr) : TacticM Unit := withMainContext do
...
+          try pargs.back!.mvarId!.assignIfDefEq decl.toExpr catch _ => return .none
+          let val ← instantiateMVars tp'
+          let tp ← inferType val -- This should be the type `Algebra.Property A B`.
+          return (val, tp)
+      let .some (val,tp) ← getValType | return
+      /- Find all arguments to `Algebra.Property A B` which are of the form
+        `RingHom.toAlgebra x` or `Algebra.toModule (RingHom.toAlgebra x)`. -/
+      let algebra_args ← tp.getAppArgs.mapM <| fun x => liftMetaM do
+        let y := (← whnfUntil x ``Algebra.toModule) >>= (·.getAppArgs.back?)
+        whnfUntil (y.getD x) ``RingHom.toAlgebra
```
Comment (callesonne) [inline Mathlib/Tactic/Algebraize.lean]: I wonder if there is a way to do this check at the start of this block (i.e. right after `| some p =>`) as it feels slightly inefficient to do this check after `(val, tp)` has already been constructed. For example, would there be a way to analyze `args` immediately to check that only the correct ringhoms are appearing. Have you already thought about this? I guess the problem is that you have no idea on how deep you need to reduce each argument in order to find a ringhom, so it is probably worse than the current approach anyways.

Comment (edegeltje) [reply Mathlib/Tactic/Algebraize.lean]: i did think about this, and figured that there is not really a general way to figure out what the relevant ringhom is *before* making the application... you can of course do some ad-hoc checks, but not without false negatives, i think.

File: MathlibTest/algebraize.lean (hunk 20 above)
Comment (edegeltje) [reply MathlibTest/algebraize.lean:107]: yes, among other things. it fails when *any* instance is given that name, but indeed that was the original thought

**Review by callesonne — APPROVED** [review]
Thanks a lot! LGTM :)

**Comment by callesonne** [comment]
@chrisflav do you want to maintainer merge?

**Comment by chrisflav** [comment]
Thanks Calle and Edward! I am not a competent meta reviewer, but I think it looks fine and Calle, the original author of this tactic has reviewed it positively, so I think it is time to get a maintainers opinion on this one:

maintainer merge?

**Comment by kmill** [comment]
I'm not familiar with this tactic and don't grasp the logic, but I see tests and I don't see anything out of the ordinary.

Given that @callesonne has approved it, let's merge!

bors r+
